US04745232
U.S. Pat. No. 2,945,890 to Allan shows a method of preparing 2,4-dinitroresorcinol using a sulfuric acid/nitric acid nitrating solution. Apparently, however, styphnic acid (2,4,6-trinitroresorcinol), an undesirable and explosive side product, is also produced in fairly substantial quantities.

reactant | 2,4-dinitroresorcinol | [N+](=O)([O-])C1=C(O)C=CC(=C1O)[N+](=O)[O-] | C6H4N2O6
reactant | sulfuric acid nitric acid | S(O)(O)(=O)=O.[N+](=O)(O)[O-]
product | styphnic acid | C1([N+](=O)[O-])=C(O)C([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O8
